US06803375B1
Following the procedure outlined in Example 4, 5.00 g (17.1 mmol) of (2-chlorophenyl) diphenyl methanol, designated as T-3 on Appendix A, was treated with 2.5 ml thionyl chloride (34 mmol) according to general method B to give 4.39 g (82%) of (2-Chlorophenyl) diphenyl chloromethane, mp: 131° C.

reactant | (2-chlorophenyl) diphenyl methanol | 17.1 mmol, 5.00 g | ClC1=C(C=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15ClO
reactant | thionyl chloride | 34 mmol, 2.5 ml | S(=O)(Cl)Cl | Cl2OS
product | (2-Chlorophenyl) diphenyl chloromethane | 4.39 g, 82% | ClC1=C(C=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H14Cl2
